US04259429
3. Preparation of a copoly(isobutyl methacrylate/vinyltoluene/n-dodecyl methacrylate)
A solution of 20.0 g of m-, p-vinyltoluene (mainly para-), 20.0 g of isobutyl methacrylate, 10 g of n-dodecyl methacrylate, 0.25 g of benzoyl peroxide (100%), and 25.0 g of isododecane or ISOPAR G (trade name) was introduced in a reaction pressure tube of about 100 ml. Nitrogen was bubbled through for 5 min. The pressure tube was sealed and immersed in an oil-bath of 80° C. After a reaction time of 16 h the viscous bright solution was admixed with 0.25 g of benzoyl peroxide and the pressure tube was sealed again and heated to 80° C. After a total reaction time of 40 h a very viscous transparent solution was obtained. The polymerization was quantitative and the polymer solution was diluted with fresh isododecane to a total weight of 250 g.

reactant | p-vinyltoluene | C(=C)C1=CC=C(C=C1)C | C9H10
reactant | isobutyl methacrylate | 20.0 g | C(C(=C)C)(=O)OCC(C)C | C8H14O2
reactant | n-dodecyl methacrylate | 10 g | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
reactant | benzoyl peroxide | 0.25 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | ISOPAR G | CCCCCCCCC(C)C | C11H24
solvent | isododecane | CCCCCCCCCC(C)C | C12H26
solvent | isododecane | 25.0 g | CCCCCCCCCC(C)C | C12H26
product | isobutyl methacrylate vinyltoluene n-dodecyl methacrylate | C(C(=C)C)(=O)OCC(C)C.C(=C)C1=C(C=CC=C1)C.C(C(=C)C)(=O)OCCCCCCCCCCCC | InChI=1S/C16H30O2.C9H10.C8H14O2/c1-4-5-6-7-8-9-10-11-12-13-14-18-16(17)15(2)3;1-3-9-7-5-4-6-8(9)2;1-6(2)5-10-8(9)7(3)4/h2,4-14H2,1,3H3;3-7H,1H2,2H3;6H,3,5H2,1-2,4H3
